US07129225B2
3-hydroxy-4-propyloxybenzylamine
This compound was prepared by reduction of 3-hydroxy-4-propyloxybenzonitrile according to procedure described in preparation of 3,5-dibenzyloxybenzylamine. Yield was 48%: MP 110–113° C. (dec.); 1H NMR (CDCl3, 400 MHz) δ6.86 (s, 1H), 6.77 (d, 1H, J=8.4 Hz), 6.74 (d, 1H, J=8.1 Hz), 3.95 (t, 1H, J=6.6 Hz), 3.74 (s, 2H), 2.01 (br, 2H), 1.82 (m, 2H), 1.02 (t, 3H, J=7.4 Hz).

reactant | 3-hydroxy-4-propyloxybenzonitrile | OC=1C=C(C#N)C=CC1OCCC | C10H11NO2
reactant | 3,5-dibenzyloxybenzylamine | C(C1=CC=CC=C1)OC=1C=C(CN)C=C(C1)OCC1=CC=CC=C1 | C21H21NO2
product | 3-hydroxy-4-propyloxybenzylamine | Yield was 48% | OC=1C=C(CN)C=CC1OCCC | C10H15NO2
